US04738960
(a) Preparation of N-[3-[3-(1-piperidinomethyl)phenoxy]propyl]-1,3,4-thiadiazole-2,5-diamine
0.57 g (2.3 mmol) of 1-Amino-[3-[3-(1-piperidinomethyl)phenoxy]-propane, 0.35 ml of triethylamine and 0.42 g (2,3 mmol) of 5-bromo-1,3,4-thiadiazole-2-amine are heated under reflux in 20 ml of THF for 3 hours. Solid triethylammonium bromide is filtered off, the filtrate is concentrated by evaporation and the residue is purified by preparative layer chromatography.

reactant | 3-[3-(1-piperidinomethyl)phenoxy]-propane | N1(CCCCC1)CC=1C=C(OCCC)C=CC1 | C15H23NO
reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-1,3,4-thiadiazole-2-amine | 2,3 mmol, 0.42 g | BrC1=NN=C(S1)N | C2H2BrN3S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-[3-[3-(1-piperidinomethyl)phenoxy]propyl]-1,3,4-thiadiazole-2,5-diamine | N1(CCCCC1)CC=1C=C(OCCCNC=2SC(=NN2)N)C=CC1 | C17H25N5OS
